US04987129
(1) Synthesis of 3-amino-5-hydroxymethyl-s-triazole glycolate
While stirring 1738 g (16 moles) of a 70% glycolic acid, 1088 g (8 moles) of aminoguanidino-carboxylic acid was added thereto with little by little. To the mixture was added 8 ml of conc. nitric acid and the mixture was stirred under reflux for 24 hours. The reaction mixture was ice-cooled, and then precipitates were collected by filtration, washed with water and then dried.

reactant | glycolic acid | C(CO)(=O)O | C2H4O3
reactant | aminoguanidino-carboxylic acid | 8 moles, 1088 g | NOC(=O)NC(=N)N | C2H6N4O2
reactant | nitric acid | 8 ml | [N+](=O)(O)[O-] | HNO3
product | 3-amino-5-hydroxymethyl-s-triazole glycolate | C(CO)(=O)O.NC1=NNC(=N1)CO | InChI=1S/C3H6N4O.C2H4O3/c4-3-5-2(1-8)6-7-3;3-1-2(4)5/h8H,1H2,(H3,4,5,6,7);3H,1H2,(H,4,5)
